US07923555B2
3-(Amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol
A 35% ammonia solution (132 ml, 2.9 moles) was added to a suspension of 3-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol (22.0 g, 0.06463 mol) in 2-butanol (81 ml). The mixture was heated at 90° C. in a pressure vessel for 15 hr then concentrated to 130 ml, cooled to room temperature and the solid collected by filtration. This material was washed with water (3×22 mL) and dried at 40° C. under vacuum. To afford the desired product. 1H NMR (DMSO-d6, 400 MHz): δ 7.5 (d, 1H), 7.0 (d, 1H), 6.6 (bs, 2H), 5.1 (s, 1H), 3.4 (pentet, 1H), 2.3-2.4 (m, 4H) and 1.4 (s, 3H).

reactant | ammonia | 2.9 moles, 132 ml | N | H3N
reactant | 3-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol | 0.06463 mol, 22.0 g | BrC=1N=C(N2C1C(=NC=C2)Cl)C2CC(C2)(O)C | C11H11BrClN3O
solvent | 2-butanol | 81 ml | CC(CC)O | C4H10O
product | 3-(Amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol | NC1=CN=CC=2N1C(=NC2Br)C2CC(C2)(O)C | C11H13BrN4O
